US08703768B2
Step 3: 6-Chloro-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid
A suspension of 6-chloro-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester (98 mg, 0.35 mmol) in THF (1 ml) and ethanol (0.5 ml) was cooled to 0° C. and treated with 1M LiOH (0.7 ml, 0.7 mmol). The ice bath was removed and the reaction mixture was stirred at rt. for 2 h. 1M HCl (0.7 ml, 0.7 mmol) was added and stirring was continued until a precipitate was forming. The reaction mixture was sucked off and the product was obtained upon drying of the precipitate as yellow solid (60 mg, 67%).

reactant | 6-chloro-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid ethyl ester | 0.35 mmol, 98 mg | C(C)OC(=O)C1=NC(=CC=C1NC=1C=NC=NC1)Cl | C12H11ClN4O2
reactant | LiOH | 0.7 mmol, 1M, 0.7 ml | [Li+].[OH-]
reactant | HCl | 0.7 mmol, 1M, 0.7 ml | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | ethanol | 0.5 ml | C(C)O | C2H6O
product | 6-Chloro-3-(pyrimidin-5-ylamino)-pyridine-2-carboxylic acid | ClC1=CC=C(C(=N1)C(=O)O)NC=1C=NC=NC1 | C10H7ClN4O2
